US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrochloride
8.9 g (0.02 mole) of 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline in 150 ml of methanol are acidified with a saturated ethereal solution of hydrogen chloride, the solvent is distilled off and the residue is recrystallized from ethanol. Melting point 229°-233° C. (with decomposition).

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline | 0.02 mole, 8.9 g | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(N(C)C)(=O)=O | C18H18ClN3O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(N(C)C)(=O)=O | InChI=1S/C18H18ClN3O2S2.ClH/c1-21(2)26(23,24)17-11-13(9-10-15(17)19)16-12-25-18(22(16)3)20-14-7-5-4-6-8-14;/h4-12H,1-3H3;1H
